US04536450
Preparation of N-(α-methylbenzyl)-14-(2,4-dinitrophenoxy)-10,12-tetradecadiynamide
To a solution of 220 mg (0.65 mmol) of N-(α-methylbenzyl)-14-hydroxy-10,12-tetradecadiynamide in 10 ml DMSO was added 506 mg (5.00 mmol) of triethylamine. To the solution was then added 130 mg (0.70 mmol) of 2,4-dinitrofluorobenzene. The resulting red solution was stirred 16 hours at ambient temperature, and 25 ml of saturated aqueous potassium bicarbonate solution was then added. After stirring 15 minutes, the mixture was poured into 100 ml of water and the resulting solution was extracted with 100 ml portions of ethyl acetate. The combined organic extracts were washed with three 50 ml portions of water and three 50 ml portions of saturated aqueous sodium bicarbonate solution and dried over (MgSO4). Evaporation gave 312 mg of a red oil. NMR indicated no starting alcohol was present. The product was purified by passing it through silica gel (ether as eluent); crystallization from ether petroleum ether gave white crystals, m.p. 59°-60° C. NMR (CDC13): 9.42-7.30, m, 8H aryl H's; 6.00, br s, 1H, N--H; 5.10, br s 2H, O--CH3C=C and m, 1H, CHCH3 ; 2.30, m, 4H, C=CH2CH2 and --CH2CO--; 1.55, d, J=7 Hz, 3H, CH3 and 170--1.20, m, 12 H, other CH2.

reactant | N-(α-methylbenzyl)-14-hydroxy-10,12-tetradecadiynamide | 0.65 mmol, 220 mg | CC(C1=CC=CC=C1)NC(CCCCCCCCC#CC#CCO)=O | C22H29NO2
reactant | triethylamine | 5.00 mmol, 506 mg | C(C)N(CC)CC | C6H15N
reactant | 2,4-dinitrofluorobenzene | 0.70 mmol, 130 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | potassium bicarbonate | 25 ml | C([O-])(O)=O.[K+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | N-(α-methylbenzyl)-14-(2,4-dinitrophenoxy)-10,12-tetradecadiynamide | 312 mg | CC(C1=CC=CC=C1)NC(CCCCCCCCC#CC#CCOC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C28H31N3O6
